US08445692B2
To 4-nitro-1H-pyrazole (Example 4-id) (3.8 g, 34 mmol) in DMF (80 mL) cooled to 0° C., via an ice/water bath, was added t-BuOK (4.2 g, 38 mmol). After addition of the base the ice bath was removed and the mixture was stirred for 30 minutes followed by the addition of 4-(chloromethyl)-3,5-dimethylisoxazole (5 g, 34 mmol). The reaction was refluxed for 16 hours then cooled to ambient temperature. H2O was added to the reaction mixture and the precipitate formed was collected by filtration. The precipitate was washed with additional H2O then dried under high vacuum to afford 3,5-dimethyl-4-((4-nitro-1H-pyrazol-1-yl)methyl)isoxazole (5.8 g, 78%) as a light yellow solid. 1H NMR (CDCl3, 400 MHz): 2.23 (s, 3H), 2.46 (s, 3H), 5.08 (s, 2H), 8.02 (s, 1H), 8.08 (s, 1H).

reactant | 4-nitro-1H-pyrazole | 34 mmol, 3.8 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | t-BuOK | 38 mmol, 4.2 g | CC(C)(C)[O-].[K+]
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | 34 mmol, 5 g | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | H2O | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3,5-dimethyl-4-((4-nitro-1H-pyrazol-1-yl)methyl)isoxazole | 5.8 g, 78% | CC1=NOC(=C1CN1N=CC(=C1)[N+](=O)[O-])C | C9H10N4O3
